US09315630B2
2-Phenylbenzimidazole was synthesized in a similar way to 2-mesityl-benzimidazole, except using benzoic acid instead of 2,4,6-trimethylbenzoic acid. Molar amounts of carboxylic acid and diamine used were as previously described to provide an off-white powder in 88% yield.

reactant | 2-mesityl-benzimidazole | C1(=C(C(=CC(=C1)C)C)C=1NC2=C(N1)C=CC=C2)C | C16H16N2
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | 2-Phenylbenzimidazole | 88% yield | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC=C2 | C13H10N2
